US06964961B2
B. (+/−)-Methanesulfonic acid methyl-{1-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide
The title compound was prepared from (+/−)-methanesulfonic acid methyl-{1-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide and 2-methyl-1H-indol-5-ylamine by a procedure analogous to Example 1C. MS: 484 (MH+); HPLC Rf: 3.69 min.; HPLC purity 91%.

reactant | (+/−)-methanesulfonic acid methyl-{1-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide | CN(S(=O)(=O)C)C1CN(CC1)C(=O)C1=CC2=NC=CC(=C2S1)Cl | C14H16ClN3O3S2
reactant | 2-methyl-1H-indol-5-ylamine | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
product | (+/−)-Methanesulfonic acid methyl-{1-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide | CN(S(=O)(=O)C)C1CN(CC1)C(=O)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C23H25N5O3S2
